US09056859B2
To a suspension of NaH (60% in oil, 0.650 g, 16.4 mmol) in DMF (40 mL) was added tert-butyl ethyl propanedioate (2.8 g, 15.1 mmol) at room temperature. The mixture was stirred for 30 min. A solution of 5-chloro-2-nitropyridine (2.00 g, 12.6 mmol) in DMF (10 mL) was added. The mixture was heated to 80° C. and stirred for 4 hours. The solvent was removed under reduce pressure. Water was added and the mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated and the residue was purified by column chromatography with silca gel to give tert-butyl ethyl (6-nitropyridin-3-yl)propanedioate. 1H-NMR (400 MHz, CDCl3) δ 8.58 (s, 1H), 8.20˜8.27 (m, 2H), 4.69 (s, 1H), 4.21˜4.26 (m, 2H), 1.45 (s, 9H), 1.28 (t, J=7.2 Hz, 2H).

reactant | NaH | 16.4 mmol, 0.650 g | [H-].[Na+]
reactant | tert-butyl ethyl propanedioate | 15.1 mmol, 2.8 g | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | 5-chloro-2-nitropyridine | 12.6 mmol, 2.00 g | ClC=1C=CC(=NC1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl ethyl (6-nitropyridin-3-yl)propanedioate | [N+](=O)([O-])C1=CC=C(C=N1)C(C(=O)OC(C)(C)C)C(=O)OCC | C14H18N2O6
